US05651919
Next, to a mixture in which 530 g of ice and 125 g of water were added to 126 g of sodium hydroxide was gradually added dropwise 125 g of bromine. After completion of dropwise addition, a solution of the previously obtained 45 g of 3,4-difluoro-4'-acetylbiphenyl dissolved in 230 ml of dioxane was added dropwise to the mixture at a temperature of 20° C. or lower. After completion of the dropwise addition, the mixture was heated to 50° C. and reacted for 1 hour. After the reaction, 100 ml of a 40% aqueous sodium bisulfite solution was added to precipitate crystals. The crystals were collected by filtration, washed well with methanol and purified by recrystallization to obtain 36 g of 3,4-difluorobiphenyl carboxylic acid.

reactant | sodium hydroxide | 126 g | [OH-].[Na+]
reactant | bromine | 125 g | BrBr | Br2
reactant | 3,4-difluoro-4'-acetylbiphenyl | 45 g | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C(C)=O | C14H10F2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | dioxane | 230 ml | O1CCOCC1 | C4H8O2
solvent | water | 125 g | O | H2O
product | 3,4-difluorobiphenyl carboxylic acid | 36 g | FC1=C(C(=CC=C1F)C1=CC=CC=C1)C(=O)O | C13H8F2O2
